### PR TITLE
Add some theorems to finite_setTheory

### PR DESCRIPTION
**Pull request by xrchz**

### CODE REVIEW

File: src/pred_set/src/more_theories/finite_setScript.sml [hunk 1]
```diff
@@ -1168,4 +1191,61 @@ Proof
...
+  \\ rw[]
+QED
+
+Theorem fBIGUNION_fset_ABS_FOLDL:
+  fBIGUNION (fset_ABS l) = FOLDL fUNION fEMPTY l
+Proof
+  rw[fBIGUNION_fset_ABS_FOLDL_aux]
+QED
+
+Theorem fIMAGE_MAP:
```
Comment (mn200) [inline src/pred_set/src/more_theories/finite_setScript.sml:1244]: One of this and `fset_ABS_MAP` must be redundant.

Comment (xrchz) [reply src/pred_set/src/more_theories/finite_setScript.sml]: Removed that one.
